US06583319B1
Step A: (7-Methoxy-1-naphthyl)methyl Acetate
In a 2 liter flask, 48.6 g (0.225 mol) of [7-methoxy(naphth-1-yl)]acetic acid are dissolved in a mixture of 700 ml benzene/300 ml acetic acid and refluxed under argon in order to degas the mixture. 100 g (1 eq) of lead tetraacetate are added at room temperature. The reaction mixture is heated at 60-70° C., at which temperature there is strong evolution of gas (release of CO2), followed by 30 minutes' at boiling temperature. The reaction mixture is concentrated in vacuo and taken up while hot in CH2Cl2 (200 ml); 500 ml of ether are added slowly with stirring. The substantial amount of creamy white precipitate which forms is filtered off over Celite and rinsed with ether. The ethereal phase is then rendered basic by means of an ice-cold solution of 5% sodium hydrogen carbonate, neutralised with water, dried over Na2SO4 and concentrated under reduced pressure to yield an oil which recrystallises slowly when cold.

reactant | [7-methoxy(naphth-1-yl)]acetic acid | 0.225 mol, 48.6 g | COC1=CC=C2C=CC=C(C2=C1)CC(=O)O | C13H12O3
reactant | lead tetraacetate | 100 g, 1 eq | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | CO2 | C(=O)=O | CO2
solvent | benzene | 700 ml | C1=CC=CC=C1 | C6H6
product | (7-Methoxy-1-naphthyl)methyl Acetate | C(C)(=O)OCC1=CC=CC2=CC=C(C=C12)OC | C14H14O3
